US04689349
3-(5-Hydroxyhept-1-yl)cyclopentene
All reactions are carried out under an inert atmosphere. 3-(4-Chlorobut-1-yl)cyclopentene {3-(4-chlorobutyl)cyclopentene} (43 g, 0.27 moles) is diluted in tetrahydrofuran (50 ml) and added dropwise to a stirred, refluxing solution of tetrahydrofuran (200 ml) containing granular magnesium (30 g, 1.25 moles). After the addition is complete and the resulting Grignard salt has formed the reaction is refluxed an additional 2 hours. The reaction vessel is then cooled in a 0° C. ice bath and propionaldehyde (15.6 g, 0.27 moles) diluted in tetrahydrofuran (20 ml) is added dropwise over 30 minutes. Then water (500 ml) is added over a period of 30 minutes and the reaction warmed to room temperature. The reaction is partitioned between ether (500 ml) and water. The aqueous layer is extracted with ether (2×500 ml) and the organic extracts are combined. The product is washed with brine (500 ml) and the solvent volume reduced under vacuum. The residue is dried over anhydrous magnesium sulfate and the solid filtered out. The remaining solvent is removed leaving a clear yellow oil. The crude product is fractionally distilled under reduced pressure leaving the desired product as a clear, colorless oil (52 g, 0.29 moles), BP 76° C./0.25 mm.

reactant | 3-(4-Chlorobut-1-yl)cyclopentene | ClCCCCC1C=CCC1 | C9H15Cl
reactant | magnesium | 1.25 moles, 30 g | [Mg] | Mg
reactant | propionaldehyde | 0.27 moles, 15.6 g | C(CC)=O | C3H6O
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(5-Hydroxyhept-1-yl)cyclopentene | OC(CCCCC1C=CCC1)CC | C12H22O
